US04941909
A suspension of 2.00 g of 2-chloro-5-[3-difluoromethyl-3,6-dihydro-2,6-dioxo-4-methyl -1(2H)-pyrimidinyl]-4-fluorobenzoic acid and 2.05 g of thionyl chloride in 25 ml of benzene is heated at reflux temperature for 20 hours. The clear solution is evaporated to dryness under reduced pressure at 50° C., the residue is dissolved in 20 ml of methylene chloride and subsequently stirred at room temperature for 3.5 hours with 5 ml of propargyl alcohol and 0.55 g of pyridine. The reaction mixture is evaporated to dryness under reduced pressure, the residue is dissolved in 100 ml of ethyl acetate and the solution is extracted three times with 100 ml of water each time. The organic phase is dried over anhydrous sodium sulphate and evaporated to dryness. The resinous residue is purified by chromatography on a silica gel column using diethyl ether/n-hexane (1:1) as the eluent. There is obtained propargyl 2-chloro-5-[3-difluoromethyl-3,6-dihydro-2,6-dioxo-4 -methyl -1(2H)-pyrimidinyl]-4-fluorobenzoate, 1H-NMR (CDCl3, 400 MHz): 7.94 ppm (d, 1H), 7.71 ppm (t, 1H), 7.39 ppm (d, 1H), 5.83 ppm (s, 1H), 4.91 ppm (d, 2H), 2.52 ppm (t, 1H), 2.50 ppm (m, 3H).

reactant | 2-chloro-5-[3-difluoromethyl-3,6-dihydro-2,6-dioxo-4-methyl -1(2H)-pyrimidinyl]-4-fluorobenzoic acid | 2.00 g | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C(F)F)=O | C13H8ClF3N2O4
reactant | thionyl chloride | 2.05 g | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | propargyl 2-chloro-5-[3-difluoromethyl-3,6-dihydro-2,6-dioxo-4 -methyl -1(2H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OCC#C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C(F)F)=O | C16H10ClF3N2O4
